US07618967B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (4.8 mL, 32.1 mmol, 1.45 equiv) was added to (1R,3S)-3-(1H-indol-3-yl)-indan-1-ol (22.2 mmol ) and diphenyl phosphoryl azide (6.0 mL, 27.8 mmol, 1.25 equiv) in 150 mL dry THF at 0° C. The reaction was stirred 0.5 hours at 0° C., then 2 hours at room temperature—TLC showed full conversion. The reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with 100 mL 0.5 N HCl, sat. NaHCO3, dried over MgSO4 and concentrated in vacuo to give the 3-((1S,3S)-3-azido-indan-1-yl)-1H-indole.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 32.1 mmol, 4.8 mL, 1.45 equiv | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (1R,3S)-3-(1H-indol-3-yl)-indan-1-ol | 22.2 mmol | N1C=C(C2=CC=CC=C12)[C@H]1C[C@H](C2=CC=CC=C12)O | C17H15NO
reactant | diphenyl phosphoryl azide | 27.8 mmol, 6.0 mL, 1.25 equiv | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-((1S,3S)-3-azido-indan-1-yl)-1H-indole | N(=[N+]=[N-])[C@H]1C[C@@H](C2=CC=CC=C12)C1=CNC2=CC=CC=C12 | C17H14N4
